US04232027
Alternatively, the starting material II may be prepared by reacting 2,3-dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one (prepared as disclosed by Krapcho et al, J. Med. Chem., 6, 544 (1963)) with N-bromosuccinimide to form 3-bromo-2-phenyl-1,5-benzothiazepin-4(5H)-one which is then reacted with cuprous cyanide in the presence of a solvent such as dimethylformamide to form the 1,2-dihydro-2-oxo-4-phenyl-3-quinolinecarbonitrile starting material.

reactant | 2,3-dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one | C1(=CC=CC=C1)C1SC2=C(NC(C1)=O)C=CC=C2 | C15H13NOS
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 3-bromo-2-phenyl-1,5-benzothiazepin-4(5H)-one | BrC1=C(SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C15H10BrNOS
